US05733913
6-(2,3-Dimethyl-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine
The title compound was prepared according to Example 1, starting from 2,3-dimethylphenylacetonitrile and 2,4-diamino-5-pyrimidine-carboxaldehyde; mp 330°-333° C.

reactant | 2,3-dimethylphenylacetonitrile | CC1=C(C=CC=C1C)CC#N | C10H11N
reactant | 2,4-diamino-5-pyrimidine-carboxaldehyde | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-(2,3-Dimethyl-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine | CC1=C(C=CC=C1C)C1=CC2=C(N=C(N=C2)N)N=C1N | C15H15N5
